US07351737B2
6-Trimethylsilanylethynyl-2,2,4,4-tetramethyl chroman-8-carbaldehyde (Compound 43)
Following general procedure I and using 6-bromo-2,2,4,4-tetramethyl chroman-8-carbaldehyde (Compound 42, see U.S. Pat. No. 6,303,785, 1.78 g, 5.4 mmol), triethyl amine (5 mL), tetrahydrofuran (10 mL), copper(I)iodide (0.23 g, 1.2 mmol), trimethylsilyl acetylene (3.3 mL, 23 mmol) and dichlorobis(triphenylphosphine)palladium(II) (0.843 g, 1.2 mmol) followed by flash column chromatography over silica gel (230-400 mesh) using 5% ethyl acetate in hexane as the eluent, the title compound (1.77 g, 99%) was obtained as a pale yellow solid.

reactant | 6-bromo-2,2,4,4-tetramethyl chroman-8-carbaldehyde | BrC=1C=C2C(CC(OC2=C(C1)C=O)(C)C)(C)C | C14H17BrO2
reactant | triethyl amine | 5 mL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | trimethylsilyl acetylene | 23 mmol, 3.3 mL | C[Si](C)(C)C#C | C5H10Si
solvent | hexane | CCCCCC | C6H14
catalyst | copper(I)iodide | 1.2 mmol, 0.23 g | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 1.2 mmol, 0.843 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Trimethylsilanylethynyl-2,2,4,4-tetramethyl chroman-8-carbaldehyde | 1.77 g, 99% | C[Si](C)(C)C#CC=1C=C2C(CC(OC2=C(C1)C=O)(C)C)(C)C | C19H26O2Si
